US07772246B2
Preparation of 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazolo[3,4-b]pyridine (79)
A suspension of 5-bromo-3-methyl-1H-pyrazolo[3,4-b]pyridine (1.04 g, 40.987 mmol), bis(pinacolato)diboron (1.93 g, 7.45 mmol, 1.5 Eq), potassium acetate (1.66 g, 16.9 mmol, 3.04 Eq) and [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) dichloride dichloromethane complex (1:1)(0.109 g, 0.149 mmol, 0.03 Eq) in 10 mL anhydrous DMSO was degassed by bubbling nitrogen via needle for 20 min. The reaction was then heated in a microwave reactor at 150° C. for 2 hours (high absorption). After this time, the reaction was cooled to room temperature and then poured in H2O (200 mL) and EtOAc (200 mL). The bi-layered mixture was filtered through compacted celite and the filtrate was dried over Na2SO4 and concentrated in vacuo to a dark oil which was purified by biotage column (Si 40+M); packed with hexanes; eluted with EtOAc/Hexanes (0-30%:900 mL, 30-30%:900 mL, 30-50%; 900 mL, 27 mL fractions) to afford the product as a white solid (1.19 g, 93.6%). 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 8.88 (d, J=1.51 Hz, 1H) 8.51 (d, J=1.51 Hz, 1H) 2.60 (s, 3H) 1.30 (s, 6H) 1.25 (s, 6H); NH not seen in NMR.

reactant | 5-bromo-3-methyl-1H-pyrazolo[3,4-b]pyridine | 40.987 mmol, 1.04 g | BrC=1C=C2C(=NC1)NN=C2C | C7H6BrN3
reactant | bis(pinacolato)diboron | 7.45 mmol, 1.93 g, 1.5 Eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 16.9 mmol, 1.66 g, 3.04 Eq | C(C)(=O)[O-].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazolo[3,4-b]pyridine | 1.19 g, 93.6% | CC1=NNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C13H18BN3O2
